Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chronically infected THR performed  at OSH ___ year ago, 
presenting for explant THR and placement of a cement antibiotic 
spacer 
 
Major Surgical or Invasive Procedure:
left THR hardware removal and  placement of a cement antibiotic 
spacer 
 
History of Present Illness:
___ yo male with history of Hep C (presumed) cirrhosis, left THR, 
and prior sepsis in ___ presented to the OR for septic left THR 
hardware removal and left femoral osteotomy with placement of a 
cement antibiotic spacer admitted to the FICU with hypotension.  


Mr. ___ was initially referred from ___ 
___ for evaluation of chronic hip pain, which worsened 
recently. He reports his initial hip replacement at ___ 
___ in ___ in the early ___ for what was presumed to be 
avascular necrosis, as a result an accidental fall from a roof 
in ___.  He has ___nd ___ with activity, 
relieved with oxycodone 15mg q6h.  He is able to walk on 
cruthces at SNF, but often "gives up and uses a wheelchair".  A 
suspicious bone scan and elevated inflammatory markers were done 
as an outpatient and lead to a high suspicion for a septic hip.  
An aspiration was without growth as an outpatient but the 
decision was made to remove the hardware and place a spacer.  
Staph aureus decolonization was instructed for prior to the 
surgery.  He had not been taking any outpatient oral abx.

In the OR, his total hip hardware was removed.  A cement spacer 
was molded in place of the hip and the left femur after 
osteotomy.  Two drains were placed in the hip.  He developed 
hypotension requiring phenylephrine and norepinephrine.  This 
was thought to be due to septic physiology however, EBL was 
noted to be 3500cc.  He received 7pRBC's, 4 units of FFP, 500cc 
of albumin, and 2300cc of NS.  Throughout the procedure, his 
calculated hct was 32 but UOP was only 75cc.  He received 1gram 
of vancomycin intraop with 16mg of morphine and 0.8mg of 
dilaudid for pain.  ID was consulted.  An aline was placed.  He 
was reversed on arrival with neostigmine and glycopyrrolate. 
 
On arrival to the MICU, patient's VS were BP 98.6 90/60 on 
phenylephrine 0.4, 127 12 100% on RA. He is reporting ___ pain 
in the left hip but no other symptoms.  
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies shortness of breath, cough, or wheezing. 
Denies chest pain, chest pressure, palpitations. Denies 
constipation, abdominal pain, diarrhea, dark or bloody stools. 
Denies dysuria, frequency, or urgency. Denies arthralgias or 
myalgias. Denies rashes or skin changes.  

 
Past Medical History:
1. Hepatitis C, presumed cirrhosis
2. EtOH abuse with prior withdrawals, no seizures
3. Group A streptococcus bacteremia causing septic shock, ARF 
requiring HD, pneumonia requiring mechanical ventilation and 
intubation in ___, last HD 1 month ago, associated with one 
seizure
4. GERD
5. Anemia
6. COPD
7. Anxiety
8. Three story fall with subsequent left hip repair ___ years 
ago, right knee ACL meniscectomy ___, fractured left wrist with 
subsequent fixation, right rotator cuff repair
9. BPH

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission PE in ICU:
Vitals:  98.6 116 106/64 12 100% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MM dry, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: CTA anteriorly, no wheezes, rales, rhonchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: + foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, 2 JP drains with serosanguinous fluid from left hip 
Neuro: A&Ox3, CNII-XII intact  

 
Pertinent Results:
Admission labs:

Discharge Labs:

Microbiology:
swab cultures pending

Imaging:
Hip films:
IMPRESSION: 
  
1.  Status post removal of the patient's left total hip 
arthroplasty.   
  
2.  Newly placed surgical hardware intact. 
  
3.  Expected postoperative soft tissue changes in the left 
gluteal region. 
  
4.  4.6 cm intramedullary chondroid lesion within the distal 
left femur likely 
represents an enchondroma, however a bone infarct is also within 
the 
differential diagnosis.  

 
Brief Hospital Course:
Brief Course:
___ yo male with Hep C cirrhosis, recent septic shock with ___ 
requiring HD, and prior left THR presents after ___ for presumed 
left septic hip with hypotension, transfered to the ICU. 

# Acute blood loss anemia: Pt with 3.5L blood loss during 
surgery. He was transferred to the ICU and briefly required 
pressors and multiple units of blood. Pressors were weaned off 
and he remained hemodynamically stable and was transferred back 
to the ortho service for further management....  

# Left septic hip s/p removal of hardware: Presumed septic hip 
given elevated inflammatory markers and suspicious bone scan.  
Gram stains all negative but cultures still pending.  Yeast grew 
on tissue culture from OR. ID was consulted and pt was placed on 
Vancomycin and Ceftriaxone added pending final culture data. 

# Hypotension: Secondary to blood loss as above. He improved 
with blood transfusions and only briefly required pressors. Low 
concern for sepsis given pt remained afebrile and improved with 
volume. 

# EtOH Abuse: Hx of heavy EtOH and prior withdrawals.  No hx of 
DT's.  Reports last drink as 48 hours ago on presentation. He 
had no signs or symptoms of withdrawal. He was continued on MVI, 
thiamine, folate daily. 

# Hep C cirrhosis: Presumed cirrhosis given elevated INR, 
hypoalbuminemia, and thrombocytopenia. No evidence of 
decompensation. 
 
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from 
PatientwebOMR.
1. Tamsulosin 0.4 mg PO DAILY 
2. OxycoDONE (Immediate Release)  15 mg PO Q6H:PRN pain 
3. Magnesium Oxide 800 mg PO Q 8H 
4. Terbinafine 1% Cream 1 Appl TP BID 
5. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain 
6. Acetaminophen 650 mg PO Q6H:PRN pain 
7. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Ferrous Sulfate 325 mg PO DAILY 
2. Magnesium Oxide 800 mg PO Q 8H 
3. Terbinafine 1% Cream 1 Appl TP BID 
4. Diazepam 5 mg PO Q8H:PRN muscle spasms 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
6. Enoxaparin Sodium 40 mg SC Q24H 
7. Senna 1 TAB PO BID 
8. Vancomycin 1250 mg IV Q 12H 
Check trough prior to 4th dose 
9. Multivitamins 1 CAP PO DAILY 
10. OxycoDONE (Immediate Release)  15 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*80 Tablet Refills:*0
11. Acetaminophen 650 mg PO Q6H:PRN pain 
12. Tamsulosin 0.4 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L hip prosthetic joint infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.

2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 

3. Resume your home medications unless otherwise instructed.

4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.

5. You may not drive a car until cleared to do so by your 
surgeon.

6. Please keep your wounds clean. You may shower starting five 
(5) days after surgery, but no tub baths or swimming for at 
least four (4) weeks. No dressing is needed if wound continues 
to be non-draining. Any stitches or staples that need to be 
removed will be taken out by the visiting nurse (___) or rehab 
facility two 
weeks after your surgery.

7. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in four (4) weeks.

8. Please DO NOT take any non-steroidal anti-inflammatory 
medications (NSAIDs such as celebrex, ibuprofen, advil, aleve, 
motrin, etc).

9. ANTICOAGULATION: Please continue your lovenox for four (4) 
weeks to help prevent deep vein thrombosis (blood clots).  ___ 
STOCKINGS x 6 WEEKS.

10. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
each day if there is drainage, otherwise leave it open to air. 
Check wound regularly for signs of infection such as redness or 
thick yellow drainage. Staples will be removed by the visiting 
nurse or rehab facility in two (2) weeks.

11. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks, and staple removal at two weeks after 
surgery.

12. ACTIVITY: NON-WEIGHT BEARING on the operative extremity with 
walker or 2 crutches at all times.  Posterior precautions. No 
strenuous exercise or heavy lifting until follow up appointment. 
 Mobilize frequently.
Physical Therapy:
LLE TTWB, NO HIP ROM
No ROM
Mobilize frequently
Treatments Frequency:
Dry sterile dressing daily as needed for drainage
Wound checks
Ice and elevation
TEDs
Staple remove POD 14, replace with steristrips
Incisional VAC
 - Change q72hrs, next change ___
 - 75 mmHg
PICC line management
NEEDS WEEKLY LABS (CBC,BUN/Cr,AST/ALT/Total BILI, VANC TROUGH) 
WEEKLY and FAXED TO ___ ID OFFICE AT ___
 
Followup Instructions:
___